US05314887
Part C: N-{2-[(4-Chlorobutyl)sulfonyl]phenylmethylene}-1-butanamine
2.45 g of 2-[(4-chlorobutyl)sulfonyl]benzaldehyde was treated with 1.1 ml of n-butylamine, 3.4 g of magnesium sulfate, and 2 drops of concentrated sulfuric acid in 20 ml of diethyl ether in the same manner as described for Example 1, Part C to give 2.76 g of product. 1H-NMR (CDCl3) δ 0.96(t,3H,J=7 Hz); 1.32-1.50(m,2H); 1.65-1.79(m,2H); 1.84-1.93(m,4H); 3.11-3.20(m,2H); 3.46-3.53(m,2H); 3.67-3.74(m,2H); 7.55-7.73(m,2H); 8.00-8.13(m,2H); 9.12(s,1H).

reactant | 2-[(4-chlorobutyl)sulfonyl]benzaldehyde | 2.45 g | ClCCCCS(=O)(=O)C1=C(C=O)C=CC=C1 | C11H13ClO3S
reactant | n-butylamine | 1.1 ml | C(CCC)N | C4H11N
reactant | magnesium sulfate | 3.4 g | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | N-{2-[(4-Chlorobutyl)sulfonyl]phenylmethylene}-1-butanamine | 2.76 g | ClCCCCS(=O)(=O)C1=C(C=CC=C1)C=NCCCC | C15H22ClNO2S
